US06177440B1
A suspension of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (935 mg, 3.85 mM), 3-trifluoromethoxybenzyl bromide (1.0 g, 3.93 mM), and potassium carbonate (531 mg, 3.85 mM) in 20 mL DMF was stirred at room temperature for 17 hours. The mixture was diluted with ethyl acetate, washed with H2O and saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated to afford 1.6 g (100%) of the 9-[(3-trifluoromethoxyphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a foam. 1H NMR (DMSO-d6) δ 7.7 (dd, 1H, J=1 and 8 Hz), 7.45 (t, 1H, J=8 Hz), 7.3-7.1 (m, 4H), 7.05 (d, 1H, J=8 Hz), 5.6 (s, 2H), 3.8 (s, 3H), 3.0 (m, 2H), 2.45 (m, 2H), and 2.1 (m, 2H). IR (CHCl3, cm−1) 1729, 1647, 1439, 1259, 1176, and 1116. MS (ES) m/e 418.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 3.85 mM, 935 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 3-trifluoromethoxybenzyl bromide | 3.93 mM, 1.0 g | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
reactant | potassium carbonate | 3.85 mM, 531 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(3-trifluoromethoxyphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 1.6 g, 100% | FC(OC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC)(F)F | C22H18F3NO4
